US09353246B2
Aluminum tris(3-(diethoxyphosphoryl)propanoate)
Use as a reaction vessel a 500 milliliter (mL) single neck round bottomed flask fitted with a condenser with a nitrogen inlet. Charge the vessel with 3-(diethyoxyphosphoryl)propanoic acid (20.30 g) followed by the addition of water (150 mL) and aluminum hydroxide monohydrate (2.709 g). Heat the resulting solution to 90° C. and hold at that temperature for eight hours. Remove the water using a rotovap to leave behind a solid material. Add 100 mL of acetone and isolate the solid by vacuum filtration using a Buchner funnel and wash with acetone (100 mL). Transfer the solid product to a glass bottle and place in a vacuum oven to dry overnight. The yield of the solid product, aluminum tris(3-(diethoxyphosphoryl)propanoate), is 12.45 g.

reactant | 3-(diethyoxyphosphoryl)propanoic acid | 20.30 g | C(C)OP(=O)(OCC)CCC(=O)O | C7H15O5P
reactant | water | 150 mL | O | H2O
reactant | aluminum hydroxide monohydrate | 2.709 g | O.[OH-].[Al+3].[OH-].[OH-]
solvent | acetone | 100 mL | CC(=O)C | C3H6O
product | Aluminum tris(3-(diethoxyphosphoryl)propanoate) | C(C)OP(=O)(OCC)CCC(=O)[O-].C(C)OP(=O)(OCC)CCC(=O)[O-].C(C)OP(=O)(OCC)CCC(=O)[O-].[Al+3] | InChI=1S/3C7H15O5P.Al/c3*1-3-11-13(10,12-4-2)6-5-7(8)9;/h3*3-6H2,1-2H3,(H,8,9);/q;;;+3/p-3
